US07420056B2
600 mg (1.48 mmol) of [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetra-methyl-butyl)-amine were dissolved together with 183 mg (1.77 mmol) of 3-ethynylpyridine, 104 mg (0.15 mmol) of bis(triphenylphosphine)-palladium(II) chloride and 28 mg (0.15 mmol) of copper(I)-iodide in DMF (10 ml). After addition of 2.00 ml (14.78 mmol) of triethylamine, the mixture was stirred at 50° C. for 3 d. The reaction solution was then diluted with EA and combined with a sat. aq. sodium carbonate solution. The phases were separated and the aqueous phase extracted with EA. The combined organic phases were washed 2× with a sat. aq. sodium carbonate solution and dried over sodium sulfate. After filtration and removal of the solvents under a vacuum, column chromatography (EA) was carried out with the group. After crystallisation of the resultant crude product, 310 mg (0.72 mmol, 49% of theoretical) of [2-(5-pyridin-3-ylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine were obtained.

reactant | [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetra-methyl-butyl)-amine | 1.48 mmol, 600 mg | BrC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(CC(C)(C)C)(C)C | C18H23BrN4S
reactant | 3-ethynylpyridine | 1.77 mmol, 183 mg | C(#C)C=1C=NC=CC1 | C7H5N
reactant | triethylamine | 14.78 mmol, 2.00 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.15 mmol, 104 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)-iodide | 0.15 mmol, 28 mg | [Cu]I
product | [2-(5-pyridin-3-ylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine | 0.72 mmol, 310 mg, 49% | N1=CC(=CC=C1)C#CC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(CC(C)(C)C)(C)C | C25H27N5S
